US05731322
i-Butyl 2-phenylhydrazono-3-oxobutyrate
15.8 g (0.1 mol) of i-butyl acetoacetate, 12 g (0.146 mol) of CH3 COONa, 20 ml of water, 75 ml of ethanol and a solution of 0.1 mol of phenyldiazonium chloride were treated as described in preparation 2. The precipitated solid was filtered an dried in vacuo yielding 23.1 g of the title compound. M.p.=45°-50° C.

reactant | i-butyl acetoacetate | 0.1 mol, 15.8 g | C(CC(=O)C)(=O)OCC(C)C | C8H14O3
reactant | water | 20 ml | O | H2O
reactant | phenyldiazonium chloride | 0.1 mol | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | i-Butyl 2-phenylhydrazono-3-oxobutyrate | 23.1 g | C1(=CC=CC=C1)NN=C(C(=O)OCC(C)C)C(C)=O | C14H18N2O3
